US04052514
2,4-Difluoroiodobenzene and 4-bromo-3-nitroacetophenone were reacted under Ullmann conditions to give 4-acetyl-2',4'-difluoro-2-nitrobiphenyl, b.p. 150°-158° C./0.2 mm., and this was reduced with stannous chloride to give 4-acetyl-2-amino-2',4'-difluorobiphenyl, m.p. 93°-95° C. By similar methods there were obtained 4-acetyl-2'-chloro-4'-fluoro-2-nitrobiphenyl, b.p. 178°-190°/0.2 mm m.p. 62°-64° C. and 4-acetyl-2-amino-2'-chloro-4'-fluorobiphenyl, m.p. 84°-86° C; 4-acetyl-4'-chloro-2'-fluoro-2-nitrobiphenyl, b.p. 174°-180°/0.2 mm., m.p. 85°-86° C. and 4-acetyl-2-amino-2'-fluoro-4'-chlorobiphenyl, m.p. 115° C; 4-acetyl-2',4'-dichloro-2-nitrobiphenyl, m.p. 72°-74° C. and 4-acetyl-2-amino-2',4'-dichlorobiphenyl, m.p. 75°-76° C; 4-acetyl-2' ,4'-dibromo-2-nitrobiphenyl, b.p. 210° C./0.3 mm. and 4-acetyl-2-amino-2',4'-dibromobiphenyl, m.p. 107°-109° C; 4-acetyl-4'-bromo-2'-fluoro-2-nitrobiphenyl, m.p. 116°-117° C. and 4-acetyl-2-amino-4'-bromo-2'-fluorobiphenyl, m.p. 120°-121° C; 4-acetyl-2'-bromo-4'-fluoro-2-nitrobiphenyl, b.p. 188°-200° C./0.3 mm., m.p. 75°-77° C. and 4-acetyl-2-amino-2'-bromo-4'-fluorobiphenyl, m.p. 98°-100° C; 4-acetyl-4'-bromo-2'-chloro-2-nitrobiphenyl, b.p. 185°-190° C./0.2 mm. and 4-acetyl-2-amino-4'-bromo-2'-chlorobiphenyl, m.p. 93°-95° C; and 4-acetyl-2'-bromo-4'-chloro-2-nitrobiphenyl, m.p. 84°-86° C; and 4-acetyl-2-amino-2'-bromo-4'-chlorobiphenyl, m.p. 98°-100° C.

reactant | 2,4-Difluoroiodobenzene | FC1=C(C=CC(=C1)F)I | C6H3F2I
reactant | 4-bromo-3-nitroacetophenone | CC(=O)C1=CC(=C(C=C1)Br)[N+](=O)[O-] | C8H6BrNO3
product | 4-acetyl-2',4'-difluoro-2-nitrobiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)F)F)[N+](=O)[O-] | C14H9F2NO3
